US06825200B1
[[(2S)-2-[[(2E)-3-(4-Chlorophenyl)-2-propenoyl]amino]-3-(2-pyridyl)propanoyl]amino]acetic acid
To a suspension of benzyl [[(2S)-2-[[(2E)-3-(4-chlorophenyl)-2-propenoyl]amino]-3-(2-pyridyl)propanoyl]amino]-acetate (10.8 g) in methanol (200 ml) was added 1N aqueous sodium hydroxide solution (22.6 ml), and the mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated in vacuo, and the residue was treated with aqueous citric acid solution (10%, 100 ml). The resulting white precipitate was collected by filtration, washed with tetrahydrofuran-hexane (1:1, 150 ml), and dried in vacuo to give the title compound (8.25 g) as a white solid.

reactant | benzyl [[(2S)-2-[[(2E)-3-(4-chlorophenyl)-2-propenoyl]amino]-3-(2-pyridyl)propanoyl]amino]-acetate | 10.8 g | ClC1=CC=C(C=C1)/C=C/C(=O)N[C@H](C(=O)NCC(=O)OCC1=CC=CC=C1)CC1=NC=CC=C1 | C26H24ClN3O4
reactant | sodium hydroxide | 1N, 22.6 ml | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | [[(2S)-2-[[(2E)-3-(4-Chlorophenyl)-2-propenoyl]amino]-3-(2-pyridyl)propanoyl]amino]acetic acid | 8.25 g | ClC1=CC=C(C=C1)/C=C/C(=O)N[C@H](C(=O)NCC(=O)O)CC1=NC=CC=C1 | C19H18ClN3O4
